US06632810B2
Synthesis of N,N′-bis[(4,5,6-trimethoxybenzothiophen-2-yl)methyl]piperazine:
2-Hydroxymethyl-4,5,6-trimethoxbenzothiophene (374 mg) was treated in the same manner as in Preparation Example 4, and 2-chloromethyl-4,5,6-trimethoxy-benzothiophene thus obtained was immediately reacted with piperazine (63 mg) in the same manner as in Example 1 without isolating it to obtain the title compound as a free base.

reactant | 2-chloromethyl-4,5,6-trimethoxy-benzothiophene | ClCC=1SC2=C(C1)C(=C(C(=C2)OC)OC)OC | C12H13ClO3S
reactant | piperazine | 63 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[(4,5,6-trimethoxybenzothiophen-2-yl)methyl]piperazine | COC1=C(C(=CC2=C1C=C(S2)CN2CCN(CC2)CC=2SC1=C(C2)C(=C(C(=C1)OC)OC)OC)OC)OC | C28H34N2O6S2
